US04011322
Under agitation, 73.3 g. of salicylaldehyde is added dropwise under ice cooling gradually to a solution of 6.4 g. of o-phenylenediamine in 225 ml. of methanol and 0.6 ml. of piperidine. The mixture is allowed to stand for one hour; the thus-separated precipitate is vacuum-filtered, washed twice with ice-cold methanol, and 112 g. of N-(2-hydroxybenzal)-o-phenylenediamine is obtained as a crude product.

reactant | salicylaldehyde | C(C=1C(O)=CC=CC1)=O | C7H6O2
reactant | o-phenylenediamine | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | piperidine | N1CCCCC1 | C5H11N
solvent | methanol | CO | CH4O
product | N-(2-hydroxybenzal)-o-phenylenediamine | OC1=C(C=NC2=C(C=CC=C2)N)C=CC=C1 | C13H12N2O
